US08067445B2
Step 5: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-nitro-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-nitro-biphenyl-3-yl)-acetic acid ethyl ester and benzyl chloroformate.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-nitro-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)[N+](=O)[O-])CNCC)=O | C20H24N2O5
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-nitro-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H30N2O7
